US03987067
Following the procedure of Example 1 but using 0.738 g. of PGF2α, 0.306 ml. of triethylamine, 0.288 ml. of isobutylchloroformate, and 0.299 g. of p-hydroxyacetophenone, there is obtained a crude residue. This residue is subjected to silica gel chromatography, eluting with ethyl acetate-water (99:1) followed by ethyl acetate-acetonitrile (1:1). The residue obtained by concentration of selected fractions, 0.589 g. is crystallized from ethyl acetate diluted with an equal volume of hexane as the title compound, white free-flowing crystals, m.p. 85.3°-86.5° C. having Rf 0.4 (TLC on silica gel in ethyl acetate-acetonitrile (4:1)).

reactant | PGF2α | CCCCC[C@@H](/C=C/[C@H]1[C@@H](C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)O)O)O | C20H34O5
reactant | isobutylchloroformate | C(C(C)C)OC(=O)Cl | C5H9ClO2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | p-hydroxyacetophenone | OC1=CC=C(C=C1)C(C)=O | C8H8O2
